US06049000
b) 4-(6-Hydroxyhexyloxy)benzoic acid
23.5 g (0.088 mole) ethyl 4-(6-hydroxyhexyloxy)benzoate (as crude product) was added to 300 mL 0.5 M KOH and refluxed for 5 hours.

reactant | ethyl 4-(6-hydroxyhexyloxy)benzoate | 0.088 mole, 23.5 g | OCCCCCCOC1=CC=C(C(=O)OCC)C=C1 | C15H22O4
solvent | KOH | 0.5 M, 300 mL | [OH-].[K+]
product | 4-(6-Hydroxyhexyloxy)benzoic acid | OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C13H18O4
